*
*  ZETEX  ZVP3306F Mosfet Spice Subcircuit     Last revision 3/5/00
*
.SUBCKT ZVP3306F 3 4 5
*                D G S
M1 3 2 5 5 P3306M
RG 4 2 252
RL 3 5 1.2E8
C1 2 5 28E-12
C2 3 2 3E-12
D1 3 5 P3306D
*
.MODEL P3306M PMOS VTO=-2.875 RS=5.227 RD=7.524 IS=1E-15 KP=.145
+CBD=35E-12 PB=1 LAMBDA=6.67E-3
.MODEL P3306D D IS=5E-12 RS=.768
.ENDS ZVP3306F
*
*$
*
*                          (C)  1991 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agent.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
